US04956359
Octahydro-2-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]pyrrolo[1,2-a]pyrazine fumarate [1:1]
A solution of 2.8 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was stirred with 1.4 g (0.01 mole) of potassium carbonate then treated with the dropwise addition of 1.3 g (0.01 mole) of 1,4-diazabicyclo(4.3.0)nonane. After stirring for 30 minutes, approximately 2 g of ice was added and stirring continued for 64 hr. The reaction mixture was diluted with 200 ml of water and the oil which separated was extracted into methylene chloride (2×50 ml), dried over magnesium sulfate and concentrated in vacuo to a pale yellow oil (3.9 g). This oil was placed in 20 ml of isopropanol and treated with 1.2 g of fumaric acid and heated to give a clear solution. The solvent was removed in vacuo and the residue crystallized on standing. The residue was recrystallized from ethyl acetate with 5% isopropyl ether and from methyl isobutyl ketone to yield 2.5 g (51.5%) of beige colored crystals, m.p. 102°-110° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-diazabicyclo(4.3.0)nonane | 0.01 mole, 1.3 g | N12CCNCC2CCC1 | C7H14N2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | Octahydro-2-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]pyrrolo[1,2-a]pyrazine fumarate | 2.5 g, 51.5% | C(\C=C\C(=O)O)(=O)O.FC(C=1C=C(OC2CN(C2)C(=O)N2CC3N(CC2)CCC3)C=CC1)(F)F | InChI=1S/C18H22F3N3O2.C4H4O4/c19-18(20,21)13-3-1-5-15(9-13)26-16-11-24(12-16)17(25)23-8-7-22-6-2-4-14(22)10-23;5-3(6)1-2-4(7)8/h1,3,5,9,14,16H,2,4,6-8,10-12H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
